US08242125B2
1-Benzyloxy-2-fluoro-3-methyl-4-nitrobenzene (5 g, 19 mmol) is dissolved N,N-dimethylformamide dimethyl acetal (15 mL) and heated in a microwave reactor at 180° C. in a sealed vial for 1 hour. The solution is then concentrated under reduced pressure. The resulting residue is dissolved in THF and Pd/C (1.0 g, 10%, 0.95 mmol) is added. The mixture is stirred under a hydrogen atmosphere at room temperature for 16 h before being filtered through a pad of Celite® and concentrated. The residue is separated by FCC (EtOAc/heptane from 0 to 40%) to give 4-fluoro-1H-indol-5-ol (1.5 g, 52% yield). MS (ESI) m/z 152.1 (M+1); 1H NMR (400 MHz, DMSO-d6) δ ppm 11.02 (br. s., 1H), 8.79 (s, 1H), 7.26 (t, J=2.78 Hz, 1H), 7.00 (d, J=8.59 Hz, 1H), 6.75 (t, J=8.46 Hz, 1H), 6.34 (m, 1H).

reactant | 1-Benzyloxy-2-fluoro-3-methyl-4-nitrobenzene | 19 mmol, 5 g | C(C1=CC=CC=C1)OC1=C(C(=C(C=C1)[N+](=O)[O-])C)F | C14H12FNO3
reactant | N,N-dimethylformamide dimethyl acetal | 15 mL | COC(N(C)C)OC | C5H13NO2
catalyst | Pd/C | 0.95 mmol, 1.0 g | [Pd] | Pd
product | 4-fluoro-1H-indol-5-ol | 1.5 g, 52% yield | FC1=C2C=CNC2=CC=C1O | C8H6FNO
